US05663441
An alternative synthesis for N-sec-butyl-4-tert-butyl-2,6-dinitroaniline is set forth in U.S. Pat. Nos. 4,289,907 and 4,395,572 to Chan. The starting material in this synthesis is a nitrophenol such as 2,6-dinitro-4-tert-butylphenol. The nitrophenol is methylated by reaction with methyl iodide/potassium carbonate to produce 4-tert-butyl-2,6-dinitroanisole. The 4-tert-butyl-2,6-dinitroanisole is then reacted with sec-butylamine to produce N-sec-butyl-4-tert-butyl-2,6-dinitroaniline. While effective in producing the desired product, this process also suffers from a number of distinct disadvantages.

reactant | N-sec-butyl-4-tert-butyl-2,6-dinitroaniline | C(C)(CC)NC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-] | C14H21N3O4
reactant | nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 2,6-dinitro-4-tert-butylphenol | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H12N2O5
reactant | methyl iodide potassium carbonate | CI.C([O-])([O-])=O.[K+].[K+]
product | 4-tert-butyl-2,6-dinitroanisole | C(C)(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)[N+](=O)[O-] | C11H14N2O5
